US06710043B1
To a solution of 1-benzyl-4-aminopiperidine (1.13 g) in dichloromethane (10 ml) were added a solution of 4-fluorobenzoyl chloride (0.99 g) in dichloromethane (1 ml) and diisopropylethylamine (1.09 ml) under cooling on an ice-water bath. The mixture was warmed to ambient temperature slowly under stirring. The mixture was diluted with dichloromethane and washed with water, saturated aqueous sodium hydrogen carbonate, water, and brine. After drying with magnesium sulfate, the solvents were removed under reduced pressure. A residue was purified by column chromatography (silica gel 100 ml, dichloromethane:methanol=15:1). After rinse with diisopropyl ether-n-hexane (1:1), N-(1-benzylpiperidin-4-yl)-4-fluorobenzamide (1.31 g) was obtained.

reactant | 1-benzyl-4-aminopiperidine | 1.13 g | C(C1=CC=CC=C1)N1CCC(CC1)N | C12H18N2
reactant | 4-fluorobenzoyl chloride | 0.99 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | diisopropylethylamine | 1.09 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | N-(1-benzylpiperidin-4-yl)-4-fluorobenzamide | 1.31 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(C1=CC=C(C=C1)F)=O | C19H21FN2O
